US07129246B2
(i) tert-Butyl 3-(4-{[(1-adamantylmethyl)amino]carbonyl}-5-chloropyridin-2-yl)prop-2-ynylcarbamate.
A suspension of N-(1-adamantylmethyl)-5-chloro-2-iodoisonicotinamide (Example2(i)) (0.43 g) and tert-butyl prop-2-ynylcarbamate, (0.31 g) in anhydrous acetonitrile (5 ml) and triethylamine (5 ml) was purged with nitrogen for 5 minutes and the copper (I) iodide (0.004 g) and bis-triphenyphosphine palladium dichloride (0.014 g) were added. The mixture was stirred under nitrogen for 0.75 hours. The mixture was concentrated and the residue was purified by chromatography on silica gel eluting with acetone:dichloromethane (1:19) to afford the sub-titled compound (0.34 g) as a yellow foam.

reactant | N-(1-adamantylmethyl)-5-chloro-2-iodoisonicotinamide | 0.43 g | C12(CC3CC(CC(C1)C3)C2)CNC(C2=CC(=NC=C2Cl)I)=O | C17H20ClIN2O
reactant | tert-butyl prop-2-ynylcarbamate | 0.31 g | C(C#C)NC(OC(C)(C)C)=O | C8H13NO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl 3-(4-{[(1-adamantylmethyl)amino]carbonyl}-5-chloropyridin-2-yl)prop-2-ynylcarbamate | 0.34 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC(=NC=C2Cl)C#CCNC(OC(C)(C)C)=O | C25H32ClN3O3
